US05658587
N-[3-[4-(5-Chloro-2-methoxyphenyl)-1-piperazinyl]propyl]phthalimide
A mixture of 28.6 g of 1-(5-chloro-2-methoxyphenyl)piperazine, 44.6 g of anhydrous potassium carbonate, 33.6 g of N-(3-bromopropyl)phthalimide and 250 mL of acetonitrile was stirred at reflux temperature for 8 hours. After cooling to room temperature, 800 mL of water was added to the mixture and the formed precipitate was collected by filtration and crystallized from methanol to give 46.5 g of the title compound, m.p. 131°-133° C.

reactant | 1-(5-chloro-2-methoxyphenyl)piperazine | 28.6 g | ClC=1C=CC(=C(C1)N1CCNCC1)OC | C11H15ClN2O
reactant | potassium carbonate | 44.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(3-bromopropyl)phthalimide | 33.6 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | acetonitrile | 250 mL | C(C)#N | C2H3N
solvent | water | 800 mL | O | H2O
product | N-[3-[4-(5-Chloro-2-methoxyphenyl)-1-piperazinyl]propyl]phthalimide | 46.5 g | ClC=1C=CC(=C(C1)N1CCN(CC1)CCCN1C(C=2C(C1=O)=CC=CC2)=O)OC | C22H24ClN3O3
